US09314025B2
Step B: Preparation of 1,3-diethyl 2-[2′-chloro-4′-(trifluoromethyl) [1,1′-biphenyl]-3-yl]propanedioate
Diethyl 2-(3-bromophenyl)propanedioate (3.75 g), 2-chloro-4-(trifluoromethyl)phenyl boronic acid (4.0 g), dioxane (10 mL), 2M aqueous sodium carbonate solution (5 mL) and dichlorobis(triphenylphosphine)palladium(II) (422 mg) were added to a vial, and the reaction mixture was heated at 80° C. for 30 minutes. The reaction mixture was then cooled, poured into water, extracted with ethyl acetate, and the organic phase was separated and concentrated under vacuum in the presence of Celite® (diatomaceous earth) to yield a crude solid. The crude solid was purified by medium pressure liquid chromatography on silica gel eluting with a gradient of ethyl acetate in hexanes to yield 3.2 g of the title compound. 1H NMR (CDCl3) δ 7.74 (s, 1H), 7.57 (d, 1H), 7.37-7.50 (m, 5H), 4.57 (s, 1H), 4.23 (q, 4H), 1.27 (t, 6H).

reactant | Diethyl 2-(3-bromophenyl)propanedioate | 3.75 g | BrC=1C=C(C=CC1)C(C(=O)OCC)C(=O)OCC | C13H15BrO4
reactant | 2-chloro-4-(trifluoromethyl)phenyl boronic acid | 4.0 g | ClC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 2M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 422 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 1,3-diethyl 2-[2′-chloro-4′-(trifluoromethyl) [1,1′-biphenyl]-3-yl]propanedioate | 3.2 g | ClC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1)C(C(=O)OCC)C(=O)OCC | C20H18ClF3O4
